US07220744B2
c) 1-[5-(Pyridine-2-sulfonyl)-thiazol-2-yl]-piperazine hydrochloride
Prepared in analogy to example 4 (d) from 4-[5-(pyridine-2-sulfonyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester and hydrogen chloride solution. The crude material was purified by recrystallisation from ether to afford the title compound as an off-white crystalline solid (yield 99%). MS (m/e): 311.0 (M+H+, 100%).

reactant | 4-[5-(pyridine-2-sulfonyl)-thiazol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)S(=O)(=O)C1=NC=CC=C1 | C17H22N4O4S2
reactant | hydrogen chloride | Cl | ClH
product | 1-[5-(Pyridine-2-sulfonyl)-thiazol-2-yl]-piperazine hydrochloride | yield 99% | Cl.N1=C(C=CC=C1)S(=O)(=O)C1=CN=C(S1)N1CCNCC1 | InChI=1S/C12H14N4O2S2.ClH/c17-20(18,10-3-1-2-4-14-10)11-9-15-12(19-11)16-7-5-13-6-8-16;/h1-4,9,13H,5-8H2;1H
